US05422358
Preparation of 3-(R,S )-(1-carbamoyl-1,1-diphenylmethyl)-1-phenethylpiperidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine (0.3 g), phenethyl bromide (0.2 g), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 7 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a colourless solid which was recrystallised from aqueous ethanol to give the title compound, yield, 0.17 g, m.p. 175°-1780° C.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H22N2O
reactant | phenethyl bromide | 0.2 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S )-(1-carbamoyl-1,1-diphenylmethyl)-1-phenethylpiperidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCC1=CC=CC=C1 | C27H30N2O
